US04694004
A mixture of N-(phenoxycarbonylamino)-1,2,3,6-tetrahydropyridine (2.61 g), 4-aminopyrimidine (0.95 g) and 4-dimethylaminopyridine (1.83 g) in 1,2-dichloroethane (80 ml) was refluxed for 2.5 hours. The reaction mixture was evaporated to dryness. The crude residue was dissolved in ethyl acetate (50 ml) and washed with water (50 ml), and then extracted with 5% hydrochloric acid (30 ml×2). The extract was neutralized with sodium bicarbonate and further extracted with chloroform (30 ml×2). The chloroform layer was washed with water (50 ml), dried over magnesium sulfate and evaporated to give N-[(4-pyrimidinylcarbamoyl)amino]-1,2,3,6-tetrahydropyridine (1.41 g), which was recrystallized from ethyl acetate.

reactant | N-(phenoxycarbonylamino)-1,2,3,6-tetrahydropyridine | 2.61 g | O(C1=CC=CC=C1)C(=O)NN1CCC=CC1 | C12H14N2O2
reactant | 4-aminopyrimidine | 0.95 g | NC1=NC=NC=C1 | C4H5N3
catalyst | 4-dimethylaminopyridine | 1.83 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | N-[(4-pyrimidinylcarbamoyl)amino]-1,2,3,6-tetrahydropyridine | 1.41 g | N1=CN=C(C=C1)NC(=O)NN1CCC=CC1 | C10H13N5O
